*==============================================
*Misc. Models and Subcircuits
*Copyright (c) 1997 MicroCode Engineering, Inc.
*All Rights Reserved
*==============================================

*===============================
*CDA-5 Pinouts +IN -IN +V -V OUT
*===============================

*====================================================
*LM3900 MCE-DM 2-22-95
*Quad SnglSup OpAmp pkg:DIP14 (A:1,6,14,7,5)(B:2,3,14,7,4)(C:13,8,14,7,9)(D:12,11,14,7,10)
.SUBCKT LM3900 4 3 7 10 9
Is1 9 10 1.3mA
Is2 7 5 200uA
Q1 7 5 9 NMOD
Q2 6 3 10 NMOD
Q3 3 4 10 NMOD
Q4 8 6 5 PMOD
Q5 10 6 8 PMOD
D1 4 0 DMOD
C1 10 6 0.01uF
.MODEL DMOD D(IS=800E-18)
.MODEL PMOD PNP(IS=800E-18 BF=250)
.MODEL NMOD NPN(IS=800E-18 BF=250)
.ENDS LM3900

*==============================================
*OPAMP5 pinout: +IN, -IN, +V, -V, OUT
*==============================================

*OPAMP5
*IDEAL Sngl OpAmp OpenLoopGain=100k pkg:DIP8 3,2,7,4,6
.SUBCKT OPAMP5 1 2 3 4 5
RIN 1 2 1G
EGAIN 5 0 1 2 1E5
R1 3 4 1k
.ENDS OPAMP5

*====================================================
*LF347
*Quad WideBW JFET OpAmp pkg:DIP14 (A:3,2,4,11,1)(B:5,6,4,11,7)(C:10,9,4,11,8)(D:12,13,4,11,14)
.SUBCKT LF347 1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*14.15E6 - I(VC)*10E6 + I(VE)*10E6 +
+              I(VLP)*10E6 - I(VLN)*10E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 1.59E-9
  ISS   3 10 DC 195.0E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 15E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.2
  VE   54  4 DC 2.2
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=25E-12 BETA=235.1E-6 VTO=-1)
.ENDS LF347

*====================================================
*LF351
*Sngl WideBW JFET OpAmp pkg:DIP8 3,2,7,4,6. pkg:CAN8 3,2,7,4,6.
.SUBCKT LF351 1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*28.29E6 - I(VC)*30E6 + I(VE)*30E6 +
+              I(VLP)*30E6 - I(VLN)*30E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 1.59E-9
  ISS   3 10 DC 195E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 15E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.2
  VE   54  4 DC 2.2
  VLIM  7  8 DC 0
  VLP  91  0 DC 30
  VLN   0 92 DC 30
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=12.5E-12 BETA=250.1E-6 VTO=-1)
.ENDS LF351

*====================================================
*LF353
*Dual WideBW JFET OpAmp pkg:DIP8 (A:3,2,8,4,1)(B:5,6,8,4,7)
.SUBCKT LF353 1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*28.29E6 - I(VC)*30E6 + I(VE)*30E6 +
+              I(VLP)*30E6 - I(VLN)*30E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 1.59E-9
  ISS   3 10 DC 195E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 50
  RO2   7 99 11.62
  RP    3  4 15E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.2
  VE   54  4 DC 2.2
  VLIM  7  8 DC 0
  VLP  91  0 DC 30
  VLN   0 92 DC 30
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=12.5E-12 BETA=250.1E-6 VTO=-1)
.ENDS LF353

*====================================================
*LF411C
*Sngl LoOffset LoDrift JFET OpAmp pkg:DIP8 3,2,8,4,6. pkg:CAN8 3,2,8,4,6.
.SUBCKT LF411C 1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*28.29E6 - I(VC)*30E6 + I(VE)*30E6 +
+              I(VLP)*30E6 - I(VLN)*30E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 1.59E-9
  ISS   3 10 DC 195E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 15E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.2
  VE   54  4 DC 2.2
  VLIM  7  8 DC 0
  VLP  91  0 DC 30
  VLN   0 92 DC 30
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=12.5E-12 BETA=250.1E-6 VTO=-1)
.ENDS LF411C

*====================================================
*LF412C
*Dual LoOffset LoDrift JFET OpAmp pkg:DIP8 (A:3,2,8,4,1)(B:5,6,8,4,7)
.SUBCKT LF412C 1 2 3 4 5
  C1   11 12 3.498E-12
  C2    6  7 15E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*28.29E6 - I(VC)*30E6 + I(VE)*30E6 +
+              I(VLP)*30E6 - I(VLN)*30E6
  GA    6  0 11 12 282.8E-6
  GCM   0  6 10 99 1.59E-9
  ISS   3 10 DC 195E-6
  HLIM 90  0 VLIM 1K
  J1   11  2 10 JX
  J2   12  1 10 JX
  R2    6  9 100E3
  RD1   4 11 3.536E3
  RD2   4 12 3.536E3
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 15E3
  RSS  10 99 1.026E6
  VB    9  0 DC 0
  VC    3 53 DC 2.2
  VE   54  4 DC 2.2
  VLIM  7  8 DC 0
  VLP  91  0 DC 30
  VLN   0 92 DC 30
.MODEL DX D(IS=800E-18)
.MODEL JX PJF(IS=12.5E-12 BETA=250.1E-6 VTO=-1)
.ENDS LF412C

*====================================================
*LM307
*Sngl GenPurpose OpAmp pkg:DIP8 3,2,7,4,6. pkg:CAN8 3,2,7,4,6.
.SUBCKT LM307 1 2 3 4 5
  C1   11 12 8.887E-12
  C2    6  7 30E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*42.44E6 - I(VC)*40E6 + I(VE)*40E6 +
+              I(VLP)*40E6 - I(VLN)*40E6
  GA    6  0 11 12 188.5E-6
  GCM   0  6 10 99 3.352E-9
  IEE  10  4 DC 15.14E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 5.305E3
  RC2   3 12 5.305E3
  RE1  13 10 1.839E3
  RE2  14 10 1.839E3
  REE  10 99 13.21E6
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 16.81E3
  VB    9  0 DC 0
  VC    3 53 DC 2.6
  VE   54  4 DC 2.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=107.1)
.ENDS LM307

*====================================================
*LM324
*Quad LoPwr SnglSup OpAmp pkg:DIP14 (A:3,2,4,11,1)(B:5,6,4,11,7)(C:10,9,4,11,8)(D:12,13,4,11,14)
.SUBCKT LM324 1 2 3 4 5
  C1   11 12 5.544E-12
  C2    6  7 20E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*15.91E6 - I(VC)*20E6 + I(VE)*20E6 +
+              I(VLP)*20E6 - I(VLN)*20E6
  GA    6  0 11 12 125.7E-6
  GCM   0  6 10 99 7.067E-9
  IEE   3 10 DC 10.04E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   4 11 7.957E3
  RC2   4 12 7.957E3
  RE1  13 10 2.773E3
  RE2  14 10 2.773E3
  REE  10 99 19.92E6
  RO1   8  5 50
  RO2   7 99 50
  RP    3  4 30.31E3
  VB    9  0 DC 0
  VC    3 53 DC 2.1
  VE   54  4 DC .6
  VLIM  7  8 DC 0
  VLP  91  0 DC 40
  VLN   0 92 DC 40
.MODEL DX D(IS=800E-18)
.MODEL QX PNP(IS=800E-18 BF=250)
.ENDS LM324

*====================================================
*LM348
*Quad 741 OpAmp pkg:DIP14 (A:3,2,4,11,1)(B:5,6,4,11,7)(C:10,9,4,11,8)(D:12,13,4,11,14)
.SUBCKT LM348 1 2 3 4 5
  C1   11 12 9.461E-12
  C2    6  7 30E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*4.715E6 - I(VC)*5E6 + I(VE)*5E6 +
+              I(VLP)*5E6 - I(VLN)*5E6
  GA    6  0 11 12 256.2E-6
  GCM   0  6 10 99 4.023E-9
  IEE  10  4 DC 15.06E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 4.42E3
  RC2   3 12 4.42E3
  RE1  13 10 968
  RE2  14 10 968
  REE  10 99 13.28E6
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 51.28E3
  VB    9  0 DC 0
  VC    3 53 DC 3.6
  VE   54  4 DC 3.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=250)
.ENDS LM348

*====================================================
*LM358
*Dual LoPwr, HiGain, SnglSup OpAmp pkg:DIP8 (A:3,2,8,4,1)(B:5,6,8,4,7)
.SUBCKT LM358   1 2 3 4 5
C1   11 12 5.544E-12
C2    6  7 20.00E-12
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
EGND 99  0 POLY(2) 3 0 4 0 0 .5 .5
FB    7 99 POLY(5) VB VC VE VLP VLN 0 15.91E6 -20E6 20E6 20E6 -20E6
GA    6  0 11 12 125.7E-6
GCM   0  6 10 99 7.067E-9
IEE   3 10 DC 10.04E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 7.957E3
RC2   4 12 7.957E3
RE1  13 10 2.773E3
RE2  14 10 2.773E3
REE  10 99 19.92E6
RO1   8  5 50
RO2   7 99 50
RP    3  4 30.31E3
VB    9  0 DC 0
VC 3 53 DC 2.100
VE   54  4 DC .6
VLIM  7  8 DC 0
VLP  91  0 DC 40
VLN   0 92 DC 40
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=250)
.ENDS LM358

*====================================================
*LM2902
*Quad LoPwr SnglSup OpAmp pkg:DIP14 (A:3,2,4,11,1)(B:5,6,4,11,7)(C:10,9,4,11,8)(D:12,13,4,11,14)
.SUBCKT LM2902  1 2 3 4 5
C1   11 12 2.000E-12
C2    6  7 6.000E-12
CEE  10 99 388.6E-15
DC    5 53 DX
DE   54  5 DX
DLP  90 91 DX
DLN  92 90 DX
DP    4  3 DX
BEGND 99 0 V=0.5*V(3)+0.5*V(4)
BFB 7 99 I=4.823E+7*I(VB)-5E+7*I(VC)+5E+7*I(VE)+5E+7*I(VLP)-5E+7*I(VLN)
GA    6  0 11 12 41.47E-6
GCM   0  6 10 99 414.7E-12
IEE   3 10 DC 2.543E-6
HLIM 90  0 VLIM 1K
Q1   11  2 13 QX
Q2   12  1 14 QX
R2    6  9 100.0E3
RC1   4 11 24.11E3
RC2   4 12 24.11E3
RE1  13 10 3.043E3
RE2  14 10 3.043E3
REE  10 99 78.65E6
RO1   8  5 50
RO2   7 99 25
RP    3  4 37.62E3
VB    9  0 DC 0
VC    3 53 DC 1.800
VE   54  4 DC .88
VLIM  7  8 DC 0
VLP  91  0 DC 40
VLN   0 92 DC 40
.MODEL DX D(IS=800.0E-18)
.MODEL QX PNP(IS=800.0E-18 BF=32.03)
.ENDS LM2902

*====================================================
*MC1458
*Dual 741 OpAmp pkg:DIP8 (A:3,2,8,4,1)(B:5,6,8,4,7)
.SUBCKT MC1458 1 2 3 4 5
  C1   11 12 4.664E-12
  C2    6  7 20E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*10.61E6 - I(VC)*10E6 + I(VE)*10E6 +
+              I(VLP)*10E6 - I(VLN)*10E6
  GA    6  0 11 12 137.7E-6
  GCM   0  6 10 99 2.574E-9
  IEE  10  4 DC 10.16E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 7.957E3
  RC2   3 12 7.957E3
  RE1  13 10 2.74E3
  RE2  14 10 2.74E3
  REE  10 99 19.69E6
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 18.11E3
  VB    9  0 DC 0
  VC    3 53 DC 2.6
  VE   54  4 DC 2.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=62.5)
.ENDS MC1458

*====================================================
*MC3403
*Quad LoPwr SnglSup OpAmp pkg:DIP14 (A:3,2,4,11,1)(B:5,6,4,11,7)(C:10,9,4,11,8)(D:12,13,4,11,14)
.SUBCKT MC3403 1 2 3 4 5
  C1   11 12 7.544E-12
  C2    6  7 20E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*42.44E6 - I(VC)*40E6 + I(VE)*40E6 +
+              I(VLP)*40E6 - I(VLN)*40E6
  GA    6  0 11 12 130.7E-6
  GCM   0  6 10 99 2.235E-9
  IEE   3 10 DC 12.4E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   4 11 7.957E3
  RC2   4 12 7.957E3
  RE1  13 10 3.529E3
  RE2  14 10 3.529E3
  REE  10 99 16.13E6
  RO1   8  5 37.5
  RO2   7 99 37.5
  RP    3  4 43.62E3
  VB    9  0 DC 0
  VC    3 53 DC 2.6
  VE   54  4 DC 2.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 30
  VLN   0 92 DC 30
.MODEL DX D(IS=800E-18)
.MODEL QX PNP(IS=800E-18 BF=30)
.ENDS MC3403

*====================================================
*uA741
*Sngl GenPurpose OpAmp pkg:DIP8 3,2,7,4,6. pkg:CAN8 3,2,7,4,6.
.SUBCKT UA741 1 2 3 4 5
  C1   11 12 4.664E-12
  C2    6  7 20E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*10.61E6 - I(VC)*10E6 + I(VE)*10E6 +
+              I(VLP)*10E6 - I(VLN)*10E6
  GA    6  0 11 12 137.7E-6
  GCM   0  6 10 99 2.574E-9
  IEE  10  4 DC 10.16E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 7.957E3
  RC2   3 12 7.957E3
  RE1  13 10 2.74E3
  RE2  14 10 2.74E3
  REE  10 99 19.69E6
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 18.11E3
  VB    9  0 DC 0
  VC    3 53 DC 2.6
  VE   54  4 DC 2.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=62.5)
.ENDS UA741

*====================================================
*uA747
*Dual GenPurpose OpAmp pkg:DIP14 (A:2,1,13,4,12)(B:6,7,9,4,10)
.SUBCKT UA747 1 2 3 4 5
  C1   11 12 4.664E-12
  C2    6  7 20E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*10.61E6 - I(VC)*10E6 + I(VE)*10E6 +
+              I(VLP)*10E6 - I(VLN)*10E6
  GA    6  0 11 12 137.7E-6
  GCM   0  6 10 99 2.574E-9
  IEE  10  4 DC 10.16E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 7.957E3
  RC2   3 12 7.957E3
  RE1  13 10 2.74E3
  RE2  14 10 2.74E3
  REE  10 99 19.69E6
  RO1   8  5 150
  RO2   7 99 150
  RP    3  4 18.11E3
  VB    9  0 DC 0
  VC    3 53 DC 2.6
  VE   54  4 DC 2.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=62.5)
.ENDS UA747

*====================================================
*NE5534
*Sngl LowNoise OpAmp pkg:DIP8 3,2,7,4,6,5,8. pkg:CAN8 3,2,7,4,6,5,8.
.SUBCKT NE5534 1 2 3 4 5 6 7
  C1   11 12 7.703E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*2.893E6 - I(VC)*3E6 + I(VE)*3E6 +
+              I(VLP)*3E6 - I(VLN)*3E6
  GA    6  0 11 12 1.382E-3
  GCM   0  6 10 99 13.82E-9
  IEE  10  4 DC 133E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 723.3
  RC2   3 12 723.3
  RE1  13 10 329
  RE2  14 10 329
  REE  10 99 1.504E6
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 7.757E3
  VB    9  0 DC 0
  VC    3 53 DC 2.7
  VE   54  4 DC 2.7
  VLIM  7  8 DC 0
  VLP  91  0 DC 38
  VLN   0 92 DC 38
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=132)
.ENDS NE5534

*====================================================
*uA748
*Sngl GenPurpose OpAmp pkg:DIP8 3,2,7,4,6,1,8. pkg:CAN8 3,2,7,4,6,1,8. 
.SUBCKT UA748 1 2 3 4 5 6 7
  C1   11 12 7.977E-12
  DC    5 53 DX
  DE   54  5 DX
  DLP  90 91 DX
  DLN  92 90 DX
  DP    4  3 DX
  BGND 99  0 V=V(3)*.5 + V(4)*.5
  BB    7 99 I=I(VB)*42.44E6 - I(VC)*40E6 + I(VE)*40E6 +
+              I(VLP)*40E6 - I(VLN)*40E6
  GA    6  0 11 12 188.5E-6
  GCM   0  6 10 99 3.352E-9
  IEE  10  4 DC 15.14E-6
  HLIM 90  0 VLIM 1K
  Q1   11  2 13 QX
  Q2   12  1 14 QX
  R2    6  9 100E3
  RC1   3 11 5.305E3
  RC2   3 12 5.305E3
  RE1  13 10 1.839E3
  RE2  14 10 1.839E3
  REE  10 99 13.21E6
  RO1   8  5 50
  RO2   7 99 25
  RP    3  4 16.81E3
  VB    9  0 DC 0
  VC    3 53 DC 2.6
  VE   54  4 DC 2.6
  VLIM  7  8 DC 0
  VLP  91  0 DC 25
  VLN   0 92 DC 25
.MODEL DX D(IS=800E-18)
.MODEL QX NPN(IS=800E-18 BF=107.1)
.ENDS UA748

*==============================================
*Compara5 pinout: +IN, -IN, +V, -V, OUT
*==============================================

*SWCOMP
*IDEAL Voltage Comparator using Switches pkg:DIP8 3,2,7,4,6
.SUBCKT SWCOMP 6 5 4 7 3
SVcSW1 4 3 6 5 SSWP5
SVcSW2 3 7 5 6 SSWM5
.MODEL SSWP5 SW(VT=0.005 )
.MODEL SSWM5 SW(VT=-0.005 )
.ENDS SWCOMP

*LM339
*Quad SnglSup pkg:DIP14 (A:5,4,3,12,2)(B:7,6,3,12,1)(C:9,8,3,12,14)(D:11,10,3,12,13)
.SUBCKT LM339 1 2 3 4 5
F1  9 3 V1 1
IEE 3 7 DC 100.0E-6
VI1 21 1 DC .75
VI2 22 2 DC .75
Q1  9 21  7 QIN
Q2  8 22  7 QIN
Q3  9  8  4 QMO
Q4  8  8  4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=2E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=807.4E-9)
E1 10  4  9  4  1
V1 10 11 DC 0
Q5  5 11  4 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=20.29E3 CJC=1E-15 TF=942.6E-12 TR=543.8E-9)
DP  4  3 DX
RP  3  4 46.3E3
.MODEL DX  D(IS=800.0E-18)
.ENDS LM339

*==============================================
*Compara6 pinout: +IN, -IN, +V, -V, OUT+, OUT-
*==============================================

*LM111
*Sngl Differential Comp pkg:DIP8 2,3,8,4,7,1
.SUBCKT LM111 1 2 3 4 5 6
F1  9  3 V1 1
IEE 3  7 DC 100E-6
VI1 21  1 DC .45
VI2 22  2 DC .45
Q1  9 21  7 QIN
Q2  8 22  7 QIN
Q3  9  8  4 QMO
Q4  8  8  4 QMI
.MODEL QIN PNP(IS=800E-18 BF=833.3)
.MODEL QMI NPN(IS=800E-18 BF=1002)
.MODEL QMO NPN(IS=800E-18 BF=1000 CJC=1E-15 TR=118.8E-9)
E1 10  6  9  4  1
V1 10 11 DC 0
Q5  5 11  6 QOC
.MODEL QOC NPN(IS=800E-18 BF=34.49E3 CJC=1E-15 TF=364.6E-12 TR=79.34E-9)
DP  4  3 DX
RP  3  4 6.122E3
.MODEL DX D(IS=800E-18 RS=1)
.ENDS LM111

*LP111
.SUBCKT LP111 1 2 3 4 5 6
F1  9  3 V1 1
IEE 3  7 DC 100.0E-6
VI1 21  1 DC .45
VI2 22  2 DC .45
Q1  9  21 7 QIN
Q2  8  22 7 QIN
Q3  9   8 4 QMO                                                                                 
Q4  8   8 4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=3.333E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=745.3E-9)
E1 10   6 9  4  1
V1 10  11 DC 0
Q5  5  11 6 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=10.35E3 CJC=1E-15 TF=10.38E-12 TR=503.0E-9)
DP  4   3 DX
RP  3   4 600E3
.MODEL DX  D(IS=800.0E-18)
.ENDS LP111

*LP211
.SUBCKT LP211 1 2 3 4 5 6
F1  9  3 V1 1
IEE 3  7 DC 100.0E-6
VI1 21 1 DC .45
VI2 22 2 DC .45
Q1  9 21 7 QIN
Q2  8 22 7 QIN
Q3  9  8 4 QMO
Q4  8  8 4 QMI
.MODEL QIN PNP(IS=800.0E-18 BF=3.333E3)
.MODEL QMI NPN(IS=800.0E-18 BF=1002)
.MODEL QMO NPN(IS=800.0E-18 BF=1000 CJC=1E-15 TR=745.3E-9)
E1 10  6 9  4  1
V1 10 11 DC 0
Q5  5 11  6 QOC
.MODEL QOC NPN(IS=800.0E-18 BF=10.35E3 CJC=1E-15 TF=10.38E-12 TR=503.0E-9)
DP  4  3 DX
RP  3  4 600E3
.MODEL DX  D(IS=800.0E-18)
.ENDS LP211

