*Generic SR Flip-Flip MCE Nodes: S,R,QN,Q
*MCE mixed-mode Set/Reset Flip-Flop
.SUBCKT XSRFF 3 2 4 5
XU1A 7 4 5 7400
XU1B 5 6 4 7400
XU2A 3 7 7404
XU2B 2 6 7404
.IC V(4)=0V V(5)=4.5V
.ENDS XSRFF
